US05576460
Analogous reaction of N,N-diethylaminotributyltin with aromatic iodides were less efficient; however, satisfactory yields (>60% yields of isolated product) could be obtained in the presence of ammonium salts. Thus, the reaction of N,N-diethylaminotributyltin with p-iodotoluene in the presence of N-benzyltriethylammonium chloride in toluene at 100° C. afforded 3-(N,N-diethylamino)toluene in 63% isolated yield.

reactant | N,N-diethylaminotributyltin | C(C)N(CC)[Sn](CCCC)(CCCC)CCCC
reactant | p-iodotoluene | IC1=CC=C(C=C1)C | C7H7I
catalyst | N-benzyltriethylammonium chloride | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(N,N-diethylamino)toluene | C(C)N(CC)C=1C=C(C=CC1)C | C11H17N
